US08258152B2
1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester
To a solution of (4-methyl-pyridin-3-yl)-carbamic acid tert-butyl ester (3.5 g, 16.8 mmol) in anhydrous THF (30 ml) under an atmosphere of argon at −40° C. was added tert-butyl lithium (20.7 ml, 1.7 M in pentanes, 35.2 mmol). The reaction mixture was maintained at −40° C. for 1 hour before a solution of diethyl oxalate (2.5 ml, 18.5 mmol) in THF (30 ml) was added over a 15 minute period. After stirring for 2 hours at 0° C. the reaction was allowed to warm to room temperature and then stirred for a further 19 hours. 2N HCl (110 ml) was cautiously added to the reaction mixture which was then heated at reflux for 2 hours. After cooling, dichloromethane (100 ml) was added to the reaction mixture and the aqueous phase was adjusted to pH 8 and the organic phase was isolated. The aqueous phase was washed with dichloromethane (2×50 ml) and the combined organic layers were dried over magnesium sulfate, then concentrated to afford a light-brown solid. The material was triturated with ethyl acetate and the resultant solid was then collected by filtration to afford the desired product as a beige solid (586 mg, 18%). LCMS (Method B): RT=1.89 min, M+H+=190.

reactant | (4-methyl-pyridin-3-yl)-carbamic acid tert-butyl ester | 16.8 mmol, 3.5 g | C(C)(C)(C)OC(NC=1C=NC=CC1C)=O | C11H16N2O2
reactant | tert-butyl lithium | 35.2 mmol, 1.7 M, 20.7 ml | C(C)(C)(C)[Li]
reactant | diethyl oxalate | 18.5 mmol, 2.5 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 2N, 110 ml | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 586 mg, 18% | C(C)OC(=O)C1=CC=2C(=CN=CC2)N1 | C10H10N2O2
